US09340506B2
Methyl 2-(4-chlorosulfonylphenyl)acetate (2.0 g, 8.04 mmol) was taken in dry DCM (50 mL) under argon atmosphere and cooled to 0-5° C., morpholine (0.77 mL, 8.84 mmol) followed by triethylamine (1.16 mL, 8.84 mmol) was added dropwise to the mixture at 0-5° C. Reaction mixture was then brought to room temperature and stirred for additional 2 hours. Reaction mixture was washed with water followed by brine solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the crude product, which was purified by column chromatography using 14-20% ethyl acetate in hexane as eluent to give Methyl 2-(4-morpholinosulfonylphenyl)acetate (1.5 g).

reactant | Methyl 2-(4-chlorosulfonylphenyl)acetate | 8.04 mmol, 2.0 g | ClS(=O)(=O)C1=CC=C(C=C1)CC(=O)OC | C9H9ClO4S
reactant | morpholine | 8.84 mmol, 0.77 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 8.84 mmol, 1.16 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-(4-morpholinosulfonylphenyl)acetate | 1.5 g | O1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)CC(=O)OC | C13H17NO5S
